US07741327B2
To a solution containing (S)-2-[4-(3-dimethylamino-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid ethyl ester (0.261 g, 0.001 mol) in tetrahydrofuran (4 mL) was treated with an aqueous solution of lithium hydroxide monohydrate (0.5N, 2 mL, 0.001 mol). The mixture was stirred at 20° C. for 2 h, and the solvents evaporated. The residue was dried under high vacuum and rinsed with diethyl ether to afford (S)-2-[4-(3-dimethylamino-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid lithium salt (0.257 g, 100%) as a yellow solid.

reactant | (S)-2-[4-(3-dimethylamino-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid ethyl ester | 0.001 mol, 0.261 g | C(C)OC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C(=CC=C1)N(C)C)F)=O)=O | C20H27FN2O4
reactant | lithium hydroxide monohydrate | 0.001 mol, 0.5N, 2 mL | O.[OH-].[Li+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (S)-2-[4-(3-dimethylamino-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid lithium salt | 0.257 g, 100% | [Li+].CN(C=1C(=C(OC2=CC(N(C2)[C@H](C(=O)[O-])CC(C)C)=O)C=CC1)F)C | InChI=1S/C18H23FN2O4.Li/c1-11(2)8-14(18(23)24)21-10-12(9-16(21)22)25-15-7-5-6-13(17(15)19)20(3)4;/h5-7,9,11,14H,8,10H2,1-4H3,(H,23,24);/q;+1/p-1/t14-;/m0./s1
